US07138520B2
Synthesis of 4-tert-butoxycarbonylaminobutyric acid (L3).
Prepared as described for L2 from stirring 4-aminobutyric acid (3.94 g, 38.2 mmol) in 50% aqueous dioxane with triethylamine (8.0 mL, 57 mmol) and BOC-ON (10.4 g, 42.2 mmol). A yellow oil was obtained that solidified upon addition of hexanes and cooling to −20° C. to yield a cream solid (4.03 g, 51.8%). 1H NMR (d6-DMSO, 300 MHz): δ 1.36 (s, 9H, CH3), 1.57 (m, 2H, CH2), 2.17 (t, 2H, CH2), 2.90 (m, 2H, CH2), 6.80 (t, 1H, NH).

reactant | 4-aminobutyric acid | 38.2 mmol, 3.94 g | NCCCC(=O)O | C4H9NO2
reactant | triethylamine | 57 mmol, 8.0 mL | C(C)N(CC)CC | C6H15N
reactant | BOC-ON | 42.2 mmol, 10.4 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-tert-butoxycarbonylaminobutyric acid | 4.03 g, 51.8% | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
